US09029536B2
E) 4-(7,8-Dihydro-6H-pyrido[2,3-b]pyrrolizin-9-yl)phenol
To a solution of 9-[4-(methoxymethoxy)phenyl]-7,8-dihydro-6H-pyrido[2,3-b]pyrrolizine (200 mg) in THF (4 mL) was added 1 M HCl aqueous solution (1 mL). The mixture was heated at 70° C. for 2 h. The mixture was neutralized with 1 M NaOH aqueous solution and extracted with AcOEt. The organic layer was separated, washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The precipitate was washed with 50% AcOEt in hexane and collected by filtration to give the title compound (154 mg).

reactant | 9-[4-(methoxymethoxy)phenyl]-7,8-dihydro-6H-pyrido[2,3-b]pyrrolizine | 200 mg | COCOC1=CC=C(C=C1)C=1C2=C(N3CCCC13)C=CC=N2 | C18H18N2O2
reactant | HCl | 1 M, 1 mL | Cl | ClH
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 4-(7,8-Dihydro-6H-pyrido[2,3-b]pyrrolizin-9-yl)phenol | 154 mg | N1=CC=CC2=C1C(=C1CCCN21)C2=CC=C(C=C2)O | C16H14N2O
